US04459414
4,5-Bis-(phenylthio)-3,6-dibromophthalic anhydride
2 g (4.31 millimols) of tetrabromophthalic anhydride, 0.975 g (8.84 millimols) of thiophenol, 2.41 g (17.47 millimols) of potassium carbonate and 20 ml of tetrahydrofuran are stirred at 0° C. for 2 hours and at 25° C. for 2 hours. The mixture is acidified with 2N HCl solution and extracted with tetrahydrofuran/toluene. The extracts are dried over sodium sulfate and evaporated. After recrystallisation from toluene/cyclohexane, 1.68 g (75% of theory) of 4,5-bis-(phenylthio)-3,6-dibromophthalic anhydride are obtained; melting point 183°-4° C.

reactant | tetrabromophthalic anhydride | 4.31 millimols, 2 g | BrC=1C(=C(C(=C2C1C(=O)OC2=O)Br)Br)Br | C8Br4O3
reactant | thiophenol | 8.84 millimols, 0.975 g | C1(=CC=CC=C1)S | C6H6S
reactant | potassium carbonate | 17.47 millimols, 2.41 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 2N | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4,5-Bis-(phenylthio)-3,6-dibromophthalic anhydride | C1(=CC=CC=C1)SC=1C(=C2C(C(=O)OC2=O)=C(C1SC1=CC=CC=C1)Br)Br | C20H10Br2O3S2
